US04636492
Boc-Gly-Ala-OH was prepared by an N-hydroxysuccinimide coupling procedure. Boc-Gly-OSu (7.67 g, 28.2 mmol) was dissolved in 10 mL of dimethylsulfoxide, and the resulting solution was added to a solution consisting of H-Ala-OH (3.76 g, 42.3 mmol) and triethylamine (5.89 mL, 42.3 mmol) in 20 mL of water. After stirring overnight, a precipitate was removed by filtration. The remaining solution was diluted with water and then acidified with hydrochloric acid. An aqueous phase separated from which product was extracted by addition of ethyl acetate. The ethyl acetate extract was washed with 0.2N hydrochloric acid and then saturated sodium chloride prepared in 0.2N hydrochloric acid. The washed ethyl acetate solution was then dried over sodium sulfate and filtered. Solvent was then evaporated, leaving a foamy product, which was crystallized from ethyl acetate:hexane to yield 2.88 g of Boc-Gly-Ala-OH (m.p. 128°-130°).

reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | Boc-Gly-OSu | 28.2 mmol, 7.67 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
reactant | H-Ala-OH | 42.3 mmol, 3.76 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | triethylamine | 42.3 mmol, 5.89 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | Boc-Gly-Ala-OH | 2.88 g | N(CC(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C10H18N2O5
